US05030629
Preparation of 1-(2-Hydroxyethyl)-2-octyl-2-imidazoline
13.02 g (93.51 mmoles) of octyl cyanide was treated with 12.327 g (118.36 mmoles) of 2-(2-aminoethylamino)ethanol in presence of 0.5 ml of carbon disulfide at 125° C. for 24 hrs. and worked up as outlined under Example 23. Distillation of the residue at 167°-169° C./0.5 mm gave 12.332 g (62.7%) of product.

reactant | octyl cyanide | 93.51 mmoles, 13.02 g | C(CCCCCCC)C#N | C9H17N
reactant | 2-(2-aminoethylamino)ethanol | 118.36 mmoles, 12.327 g | NCCNCCO | C4H12N2O
solvent | carbon disulfide | 0.5 ml | C(=S)=S | CS2
product | 1-(2-Hydroxyethyl)-2-octyl-2-imidazoline | 12.332 g, 62.7% | OCCN1C(=NCC1)CCCCCCCC | C13H26N2O
